US04144263
Preparation of 2,4-diamino-5-(4,5-dimethoxy-2-methylbenzyl) pyrimidine (ormetoprim)
A solution of α-carbethoxy-α-diethoxymethyl-β-(4,5-dimethoxy-2-methylphenyl)propionitrile (3.9 g, 0.01 mol) and an equivalent amount of potassium hydroxide in ethanol (70 ml) was heated at reflux for one hour. A solution of guanidine (0.035 mol) in ethanol (50 ml) was added, and reflux was resumed. Ethanol was boiled off until the reaction temperature reached 85° C. After 20 hours at reflux the mixture was allowed to cool, and the product was filtered and washed with ethanol giving 2.57 g (94%) of nearly white solid. After purification as described in Example 5, the product was dried under reduced pressure giving a white solid, m.p. 231°-233° C.

reactant | α-carbethoxy-α-diethoxymethyl-β-(4,5-dimethoxy-2-methylphenyl)propionitrile | 0.01 mol, 3.9 g | C(=O)(OCC)C(C#N)(CC1=C(C=C(C(=C1)OC)OC)C)C(OCC)OCC | C20H29NO6
reactant | potassium hydroxide | [OH-].[K+]
reactant | guanidine | 0.035 mol | NC(=N)N | CH5N3
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2,4-diamino-5-(4,5-dimethoxy-2-methylbenzyl) pyrimidine | NC1=NC=C(C(=N1)N)CC1=C(C=C(C(=C1)OC)OC)C | C14H18N4O2
